* File: nem_ohmux_invd1_4i_8b.pex.netlist
* Created: Sun May 23 20:40:22 2021
* Program "Calibre xRC"
* Version "v2019.1_18.11"
* 
.include "nem_ohmux_invd1_4i_8b.pex.netlist.pex"
.subckt nem_ohmux_invd1_4i_8b_pex  I0_0 I0_1 I0_2 I0_3 I0_4 I0_5 I0_6 I0_7 I1_0 I1_1 I1_2 I1_3 I1_4 I1_5 I1_6 I1_7 I2_0 I2_1 I2_2 I2_3 I2_4 I2_5 I2_6 I2_7 I3_0 I3_1 I3_2 I3_3 I3_4 I3_5 I3_6 I3_7 S0 S1 S2 S3 Z_0 Z_1 Z_2 Z_3 Z_4 Z_5 Z_6 Z_7
* 
c_7 Z_5 0 0.0596265f
c_14 Z_7 0 0.0574202f
c_21 Z_4 0 0.0250901f
c_26 Z_0 0 0.023535f
c_33 Z_6 0 0.0349742f
c_41 Z_2 0 0.0236222f
c_48 Z_3 0 0.065572f
c_55 Z_1 0 0.057034f
c_59 I0_6 0 0.0262202f
c_64 I0_5 0 0.0239967f
c_70 I0_7 0 0.0250944f
c_74 I0_0 0 0.020829f
c_80 S0 0 0.0182409f
c_83 I0_4 0 0.0268909f
c_90 I0_3 0 0.0212177f
c_96 I0_1 0 0.022319f
c_101 I0_2 0 0.025243f
c_109 I1_6 0 0.0152843f
c_116 I1_5 0 0.016327f
c_121 I1_7 0 0.0185515f
c_125 I1_0 0 0.0145517f
c_134 S1 0 0.0136835f
c_141 I1_4 0 0.01146f
c_152 I1_3 0 0.00957212f
c_160 I1_1 0 0.0171016f
c_166 I1_2 0 0.0211587f
c_172 I2_6 0 0.0209069f
c_179 I2_5 0 0.0186498f
c_188 I2_7 0 0.0195366f
c_194 I2_0 0 0.0160492f
c_202 S2 0 0.0151107f
c_208 I2_4 0 0.0220966f
c_216 I2_3 0 0.0184488f
c_224 I2_1 0 0.0182134f
c_230 I2_2 0 0.0211587f
c_235 I3_6 0 0.0239323f
c_241 I3_5 0 0.0222803f
c_248 I3_7 0 0.0238386f
c_252 I3_0 0 0.0214875f
c_258 S3 0 0.0193651f
c_262 I3_4 0 0.0269748f
c_267 I3_3 0 0.0238293f
c_272 I3_1 0 0.0235157f
c_276 I3_2 0 0.0264067f
*
.include "nem_ohmux_invd1_4i_8b.pex.netlist.nem_ohmux_invd1_4i_8b.pxi"
*
.ends
*
*
